US07074798B2
b) 4-[7-(2-Butynyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[7-(2-Butynyl)-1,3-bis-(2,2-dimethylpropionyloxymethyl)-2,6-dioxo 2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (1.9 g) was dissolved in a solvent mixture of tetrahydrofuran (20 ml) and methanol (10 ml), and sodium hydride (0.31 g) was added to the solution. The mixture was stirred at room temperature for 1 hour. The reaction mixture was neutralized with 2 N hydrochloric acid and extracted with ethyl acetate. The organic layer was concentrated by distillation to give 1.2 g of the title compound.

reactant | 4-[7-(2-Butynyl)-1,3-bis-(2,2-dimethylpropionyloxymethyl)-2,6-dioxo 2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 1.9 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC#CC)=O)COC(C(C)(C)C)=O)=O)COC(C(C)(C)C)=O | C30H44N6O8
reactant | sodium hydride | 0.31 g | [H-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | 4-[7-(2-Butynyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 1.2 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2NC(NC(C2N1CC#CC)=O)=O | C18H24N6O4
